US05153210
A solution of 4-benzyloxy-α-[[[2-[4-((4,5-dihydro-1H-2-imidazolyl)methyloxy)phenoxy]-1-methylethyl]amino]methyl]benzenemethanol (1.5 g) in ethylacetate (80 ml) was hydrogenated at atmospheric pressure in the presence of 10% palladium on carbon. The reaction mixture was filtered and evaporated to a foam which was purified by column chromatography on alumina. Elution with methanol-chloroform (8:92) gave 4-hydroxy-α [[[2-[4-((4,5-dihydro-1H-2-imidazolyl)-methyloxy)phenoxy]-1-methylethyl]amino]methyl]benzene-methanol m.pt. 160°-180° C. (ethyl acetate), as a 40:60 mixture of diastereoisomers.

reactant | 4-benzyloxy-α-[[[2-[4-((4,5-dihydro-1H-2-imidazolyl)methyloxy)phenoxy]-1-methylethyl]amino]methyl]benzenemethanol | 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(O)CNC(COC1=CC=C(C=C1)OCC=1NCCN1)C | C28H33N3O4
solvent | ethylacetate | 80 ml | C(C)OC(C)=O | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 4-hydroxy-α [[[2-[4-((4,5-dihydro-1H-2-imidazolyl)-methyloxy)phenoxy]-1-methylethyl]amino]methyl]benzene-methanol | OC1=CC=C(C=C1)C(O)CNC(COC1=CC=C(C=C1)OCC=1NCCN1)C | C21H27N3O4
